* File: DFFen.pex.netlist.pex
* Created: Mon Apr 15 16:21:46 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFFEN_VDD 1 6 7 8 9 23
r0 54 57 0.0517569
r1 48 51 0.0517569
r2 42 45 0.0517569
r3 36 58 0.0648174
r4 36 57 0.28
r5 34 52 0.00419427
r6 33 58 0.00419427
r7 33 34 0.0976
r8 32 52 0.0648174
r9 32 51 0.28
r10 27 46 0.00419427
r11 27 29 0.00133333
r12 26 52 0.00419427
r13 26 29 0.0978667
r14 25 46 0.0648174
r15 25 45 0.28
r16 21 40 0.00419427
r17 21 23 0.264267
r18 20 46 0.00419427
r19 20 23 0.00453333
r20 19 40 0.0648174
r21 19 39 0.2125
r22 13 39 0.0469158
r23 13 15 0.104615
r24 6 60 0.921778
r25 1 9 2.318
r26 1 8 2.318
r27 1 7 2.318
r28 1 60 0.108444
r29 1 54 15.53
r30 1 48 15.53
r31 1 42 15.53
r32 1 29 0.0886932
r33 1 15 3.8825
.ends

.subckt PM_DFFEN_Q 6 14 20 21 22 25 26 162
r0 211 213 0.0677543
r1 162 165 0.68
r2 152 158 0.0477743
r3 151 152 1.87
r4 150 165 0.0477743
r5 149 151 0.0446983
r6 149 150 0.502
r7 147 165 0.0477743
r8 147 148 2.974
r9 146 154 0.0477743
r10 145 148 0.0446983
r11 145 146 0.736
r12 133 134 0.962
r13 125 128 0.0517569
r14 116 118 0.1375
r15 103 106 0.0517569
r16 98 100 0.105
r17 94 97 0.0517569
r18 88 90 0.0625
r19 84 86 0.0725
r20 80 82 0.0775
r21 76 78 0.1375
r22 74 75 0.5975
r23 73 142 0.0236071
r24 73 128 2.495
r25 71 118 0.04
r26 70 130 0.0517569
r27 70 71 0.2775
r28 69 119 0.0338756
r29 68 74 0.0446983
r30 68 69 0.2775
r31 66 142 0.0808643
r32 66 67 0.18
r33 65 121 0.0517569
r34 64 118 0.0046983
r35 64 65 0.3375
r36 63 119 0.00880368
r37 62 67 0.0446983
r38 62 63 1.41
r39 61 115 0.0338756
r40 60 75 0.0446983
r41 60 61 0.3825
r42 59 116 0.0046983
r43 58 115 0.00880368
r44 58 59 1.8475
r45 57 215 0.0559551
r46 56 115 0.0338756
r47 56 57 0.525
r48 55 112 0.0517569
r49 54 119 0.0338756
r50 54 55 0.8025
r51 53 100 0.0046983
r52 53 106 0.2925
r53 50 108 0.0517569
r54 50 51 1.7975
r55 49 51 0.0446983
r56 48 98 0.0046983
r57 48 49 1.66
r58 47 86 0.0046983
r59 47 97 0.4175
r60 41 92 0.0517569
r61 41 43 0.209231
r62 39 90 0.0046983
r63 39 92 0.2425
r64 38 78 0.0046983
r65 37 211 0.0717543
r66 37 38 0.115
r67 36 88 0.0046983
r68 35 82 0.0046983
r69 35 36 1.8775
r70 33 84 0.0046983
r71 33 213 2.72
r72 32 80 0.0046983
r73 31 76 0.0046983
r74 31 32 0.705
r75 30 215 0.68
r76 30 158 0.68
r77 30 133 0.0477743
r78 30 142 0.68
r79 30 130 11.07
r80 30 125 15.61
r81 30 121 15.53
r82 30 112 11.07
r83 29 108 11.07
r84 29 103 15.61
r85 28 137 11.07
r86 28 134 0.0477743
r87 28 137 0.68
r88 27 211 0.68
r89 27 167 0.108444
r90 27 154 0.68
r91 27 94 15.61
r92 27 43 3.8825
r93 26 30 2.318
r94 25 167 0.916356
r95 22 30 1.89833
r96 21 29 2.12167
r97 20 27 2.1105
r98 16 18 9.23077
r99 12 30 8.27089
r100 12 14 56.5385
r101 11 28 8.27089
r102 10 29 8.27089
r103 10 11 53.0769
r104 9 29 8.27089
r105 8 18 0.587288
r106 8 9 223.846
r107 4 16 0.587288
r108 4 6 83.4615
.ends

.subckt PM_DFFEN_3 10 16 20 24 26
r0 132 134 0.0687543
r1 90 97 0.0477743
r2 90 91 1.768
r3 89 91 0.0446983
r4 88 93 0.0477743
r5 88 89 0.864
r6 71 77 0.0338756
r7 70 71 1.304
r8 69 78 0.0178972
r9 68 77 0.00880368
r10 68 69 0.698
r11 66 77 0.0338756
r12 66 67 0.894
r13 62 65 0.0517569
r14 56 58 0.125
r15 52 54 0.1275
r16 50 81 0.0559551
r17 50 51 1.58
r18 48 51 0.0446983
r19 48 49 2.055
r20 46 49 0.0446983
r21 46 47 0.3425
r22 45 136 0.0559551
r23 44 47 0.0446983
r24 44 45 0.77
r25 43 58 0.0046983
r26 43 65 3.81
r27 37 60 0.0517569
r28 37 39 0.209231
r29 35 54 0.0046983
r30 35 60 1.4825
r31 33 56 0.0046983
r32 33 134 0.12
r33 32 52 0.0046983
r34 31 132 0.0707543
r35 31 32 0.825
r36 30 85 11.07
r37 30 70 0.0477743
r38 30 85 0.68
r39 29 136 0.68
r40 29 136 11.07
r41 29 97 0.68
r42 29 78 0.0313167
r43 29 81 0.68
r44 28 111 4.25532
r45 28 74 11.07
r46 28 67 0.0477743
r47 28 74 0.68
r48 27 132 0.68
r49 27 93 0.68
r50 27 62 15.61
r51 27 39 3.8825
r52 26 27 1.03022
r53 24 27 2.12167
r54 22 23 10
r55 18 30 8.27089
r56 18 20 198.077
r57 14 16 61.9231
r58 13 111 4.33363
r59 13 23 110.769
r60 10 22 77.3077
r61 6 14 5.58729
r62 6 7 145.769
r63 5 7 5.58729
r64 4 29 8.27089
r65 4 5 192.692
.ends

.subckt PM_DFFEN_D 1 3 46
r0 46 49 0.68
r1 40 42 0.0477743
r2 39 49 0.0477743
r3 39 40 0.376
r4 27 28 2.312
r5 25 26 0.642
r6 23 28 0.0446983
r7 23 24 0.14
r8 21 24 0.0446983
r9 21 22 0.258
r10 17 20 0.0517569
r11 14 36 0.0559551
r12 14 15 0.18
r13 13 15 0.0446983
r14 13 20 2.255
r15 7 31 0.0393755
r16 7 9 0.141538
r17 6 25 0.0477743
r18 6 36 0.68
r19 6 17 15.61
r20 5 27 0.0477743
r21 5 26 0.0477743
r22 5 42 0.68
r23 4 22 0.0477743
r24 4 31 0.68
r25 4 9 3.8825
r26 3 4 0.921778
r27 1 6 1.89833
.ends

.subckt PM_DFFEN_GROUND 1 2 3 4 5 6 7 46
r0 68 70 0.0517569
r1 63 65 0.0517569
r2 57 59 0.0517569
r3 52 54 0.0517569
r4 48 50 0.0488
r5 46 48 0.0144
r6 44 46 0.0072
r7 43 44 0.0712
r8 34 36 0.0517569
r9 29 72 0.0648174
r10 29 70 0.28
r11 28 61 0.00419427
r12 27 72 0.00419427
r13 27 28 0.116
r14 25 61 0.0648174
r15 25 65 0.28
r16 24 50 0.00426667
r17 23 61 0.00419427
r18 23 24 0.111733
r19 21 50 0.0983827
r20 21 59 0.28
r21 19 44 0.0983827
r22 19 54 0.28
r23 18 40 0.0517569
r24 17 43 0.0983827
r25 17 18 0.28
r26 16 38 0.00419427
r27 15 43 0.00426667
r28 15 16 0.18
r29 13 38 0.0648174
r30 13 36 0.28
r31 7 68 15.61
r32 7 63 15.61
r33 7 57 15.61
r34 7 52 15.61
r35 7 48 0.0882386
r36 7 40 15.61
r37 7 34 15.61
r38 6 7 2.12167
r39 5 7 2.12167
r40 4 7 2.12167
r41 3 7 2.12167
r42 2 7 2.12167
r43 1 7 2.12167
.ends

.subckt PM_DFFEN_6 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_DFFEN_7 6 12 16 22 24
r0 70 71 0.952
r1 68 69 0.098
r2 66 67 0.536
r3 64 65 0.096
r4 62 63 0.592
r5 60 65 0.0446983
r6 60 61 0.42
r7 59 63 0.0446983
r8 58 61 0.0446983
r9 58 59 1.044
r10 55 56 0.13
r11 43 45 0.1425
r12 42 56 0.0046983
r13 41 42 0.8125
r14 40 52 0.0517569
r15 39 55 0.0046983
r16 39 40 0.3275
r17 38 48 0.0517569
r18 37 55 0.04
r19 37 38 0.2775
r20 36 45 0.0046983
r21 35 93 0.0559551
r22 35 36 0.8925
r23 33 41 0.0446983
r24 33 34 0.8025
r25 32 34 0.0446983
r26 31 43 0.0046983
r27 31 32 1.8475
r28 30 120 8.27089
r29 30 97 11.07
r30 30 70 0.0477743
r31 30 97 0.68
r32 29 71 0.0477743
r33 29 68 0.0477743
r34 29 93 0.68
r35 29 52 15.53
r36 29 48 11.07
r37 28 107 6.83333
r38 28 88 11.07
r39 28 66 0.0477743
r40 28 88 0.68
r41 27 83 11.07
r42 27 69 0.0477743
r43 27 83 0.68
r44 26 67 0.0477743
r45 26 62 0.0477743
r46 25 126 15.61
r47 25 64 0.0477743
r48 25 126 0.68
r49 24 29 2.074
r50 22 25 2.12167
r51 20 120 318.077
r52 18 20 5.58729
r53 18 19 19.2308
r54 14 19 5.58729
r55 14 16 108.462
r56 10 29 8.27089
r57 10 12 55
r58 9 27 8.27089
r59 8 107 4.63979
r60 8 9 167.308
r61 4 107 4.63979
r62 4 6 246.154
.ends

.subckt PM_DFFEN_10 8 20 24 38 40
r0 76 78 0.01875
r1 72 74 0.135
r2 67 70 0.0517569
r3 60 93 0.0517569
r4 60 61 0.495
r5 59 81 0.0517569
r6 58 89 0.0517569
r7 58 59 0.355
r8 56 61 0.0446983
r9 56 57 0.685
r10 55 76 0.0228659
r11 54 74 0.0046983
r12 54 55 0.125
r13 52 85 0.0517569
r14 52 53 0.4425
r15 51 72 0.0046983
r16 50 53 0.0446983
r17 50 51 0.435
r18 49 71 0.0338756
r19 48 57 0.0446983
r20 48 49 0.7825
r21 47 71 0.00880368
r22 47 70 1.7975
r23 45 63 0.0517569
r24 44 71 0.0338756
r25 44 45 0.84
r26 43 109 6.66667
r27 43 98 4.0493
r28 43 93 11.07
r29 43 67 15.61
r30 43 63 11.07
r31 42 108 6.25
r32 42 89 11.07
r33 42 81 11.07
r34 41 85 11.07
r35 41 78 15.53
r36 40 41 2.318
r37 38 43 2.12167
r38 34 36 12.6923
r39 30 32 8.84615
r40 29 108 4.00993
r41 28 109 4.63979
r42 28 29 472.692
r43 27 109 4.63979
r44 26 36 0.587288
r45 26 27 7.69231
r46 22 34 0.587288
r47 22 24 145.769
r48 18 41 8.27089
r49 18 20 103.077
r50 17 41 8.27089
r51 16 17 36.1538
r52 14 16 5.58729
r53 14 15 74.2308
r54 12 42 8.27089
r55 12 13 54.6154
r56 11 15 5.58729
r57 10 13 5.58729
r58 10 11 255
r59 6 32 0.587288
r60 6 8 87.3077
r61 5 98 4.36847
r62 4 30 0.587288
r63 4 5 183.846
.ends

.subckt PM_DFFEN_11 5 19 21 22 24
r0 70 71 1.442
r1 68 77 1.45
r2 64 66 0.155
r3 52 55 0.0517569
r4 45 66 0.0046983
r5 44 45 0.415
r6 43 61 0.0517569
r7 42 64 0.0046983
r8 42 43 0.12
r9 41 57 0.0517569
r10 40 44 0.0446983
r11 40 41 0.4325
r12 39 55 0.29
r13 37 50 0.0338756
r14 36 39 0.0446983
r15 36 37 0.135
r16 35 90 0.0559551
r17 34 50 0.00880368
r18 34 35 0.12
r19 32 50 0.0338756
r20 32 33 0.165
r21 31 33 0.0446983
r22 30 47 0.0517569
r23 30 31 0.29
r24 29 61 15.53
r25 29 57 11.07
r26 28 68 0.0477743
r27 28 90 0.68
r28 28 52 15.61
r29 28 47 15.61
r30 27 85 11.07
r31 27 70 0.0477743
r32 27 85 0.68
r33 26 74 11.07
r34 26 77 0.0477743
r35 26 74 0.68
r36 25 80 11.07
r37 25 71 0.0477743
r38 25 80 0.68
r39 24 29 2.074
r40 22 28 2.12167
r41 21 28 1.89833
r42 17 29 8.27089
r43 17 19 99.2308
r44 16 29 8.27089
r45 15 16 271.154
r46 13 15 5.58729
r47 13 14 86.1538
r48 12 14 5.58729
r49 11 12 196.154
r50 10 27 8.27089
r51 9 11 5.58729
r52 9 10 21.5385
r53 8 25 8.27089
r54 7 26 8.27089
r55 7 8 381.154
r56 3 26 8.27089
r57 3 5 82.6923
.ends

.subckt PM_DFFEN_14 6 12 14
r0 49 70 0.0374532
r1 40 41 1.804
r2 36 39 0.0517569
r3 31 33 0.15
r4 26 39 0.335
r5 23 26 0.0446983
r6 23 24 0.0825
r7 22 70 0.024479
r8 21 24 0.0446983
r9 21 22 2.96
r10 20 33 0.0046983
r11 19 44 0.0559551
r12 19 20 0.8025
r13 18 28 0.0517569
r14 17 31 0.0046983
r15 17 18 2.6375
r16 16 40 0.0477743
r17 16 49 0.68
r18 16 36 15.61
r19 15 44 11.07
r20 15 41 0.0477743
r21 15 44 0.68
r22 15 28 15.53
r23 14 15 2.318
r24 12 16 2.12167
r25 8 10 10.3846
r26 4 10 0.587288
r27 4 6 60
r28 3 15 8.27089
r29 2 8 0.587288
r30 2 3 458.846
.ends

.subckt PM_DFFEN_15 8 16 34 36
r0 59 60 2.128
r1 55 58 0.0517569
r2 51 53 0.0459574
r3 45 68 0.0559551
r4 45 58 3.6275
r5 43 53 0.0195926
r6 42 43 1.08
r7 41 47 0.0517569
r8 40 42 0.0446983
r9 40 41 0.11
r10 39 59 0.0477743
r11 39 68 0.68
r12 39 55 15.61
r13 38 51 15.53
r14 38 47 11.07
r15 37 76 0.457317
r16 37 63 11.07
r17 37 60 0.0477743
r18 37 63 0.68
r19 36 38 2.074
r20 34 39 1.89833
r21 30 32 6.53846
r22 26 28 14.2308
r23 24 37 8.34456
r24 24 25 293.846
r25 23 76 7.88725
r26 22 23 13.8462
r27 20 22 5.58729
r28 20 21 11.1538
r29 18 25 5.58729
r30 18 19 12.6923
r31 14 21 5.58729
r32 14 16 543.846
r33 13 38 8.27089
r34 12 19 5.58729
r35 12 13 14.6154
r36 10 76 5.08593
r37 10 11 94.2308
r38 6 28 0.587288
r39 6 8 147.692
r40 5 11 5.58729
r41 4 32 0.587288
r42 4 5 305.385
r43 3 30 0.587288
r44 2 26 0.587288
r45 2 3 100
.ends

.subckt PM_DFFEN_EN 4 10 18 22 42
r0 42 45 0.68
r1 36 38 0.0477743
r2 35 45 0.0477743
r3 35 36 0.712
r4 34 53 0.68
r5 34 50 8.27089
r6 34 53 11.07
r7 34 38 0.68
r8 30 31 146.154
r9 29 33 4.23445
r10 28 30 5.58729
r11 28 29 33.0769
r12 26 31 5.58729
r13 26 27 36.5385
r14 25 33 1.10046
r15 24 34 8.27089
r16 24 25 230.385
r17 20 32 4.23445
r18 20 22 64.2308
r19 16 27 5.58729
r20 16 18 90
r21 14 32 4.23445
r22 14 50 490.385
r23 12 32 1.10046
r24 12 13 103.077
r25 8 13 5.58729
r26 8 10 64.2308
r27 6 33 4.23445
r28 6 7 146.538
r29 2 7 5.58729
r30 2 4 246.154
.ends

.subckt PM_DFFEN_CLK 6 10 14 32 67
r0 67 70 0.68
r1 61 63 0.0477743
r2 60 70 0.0477743
r3 60 61 0.324
r4 43 44 0.848
r5 41 42 0.934
r6 39 44 0.0446983
r7 39 40 1.872
r8 38 93 8.35139
r9 38 91 8.35139
r10 38 57 11.07
r11 38 41 0.0477743
r12 38 57 0.68
r13 37 43 0.0477743
r14 37 101 0.68
r15 37 101 11.07
r16 37 63 0.68
r17 36 52 11.07
r18 36 42 0.0477743
r19 36 52 0.68
r20 35 77 8.27089
r21 35 47 11.07
r22 35 40 0.0477743
r23 35 47 0.68
r24 30 34 4.23445
r25 30 32 240.385
r26 28 34 4.23445
r27 28 29 140.769
r28 26 34 1.10046
r29 26 93 18.8462
r30 24 29 5.58729
r31 24 25 44.2308
r32 23 37 8.27089
r33 22 25 5.58729
r34 22 23 376.538
r35 21 91 32.3077
r36 19 21 5.58729
r37 18 19 172.692
r38 16 18 5.58729
r39 16 17 56.1538
r40 12 17 5.58729
r41 12 14 57.6923
r42 8 36 8.27089
r43 8 10 242.692
r44 6 77 120.385
.ends

