* File: Mux21.pex.netlist.pex
* Created: Mon Apr 15 16:16:27 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX21_VDD 1 3 7
r0 18 19 0.2125
r1 12 19 0.0469158
r2 12 14 0.104615
r3 7 10 0.0096
r4 5 18 0.102649
r5 5 10 0.0242667
r6 3 21 0.921778
r7 1 21 0.108444
r8 1 14 3.8825
r9 1 10 0.325208
.ends

.subckt PM_MUX21_A 1 3 48
r0 62 64 0.0677543
r1 40 43 0.0517569
r2 34 36 0.0625
r3 30 32 0.0725
r4 26 28 0.0775
r5 22 24 0.1375
r6 21 32 0.0046983
r7 21 43 0.4175
r8 15 38 0.0517569
r9 15 17 0.209231
r10 13 36 0.0046983
r11 13 38 0.2425
r12 12 24 0.0046983
r13 11 62 0.0717543
r14 11 12 0.115
r15 10 34 0.0046983
r16 9 28 0.0046983
r17 9 10 1.8775
r18 7 30 0.0046983
r19 7 64 2.72
r20 6 26 0.0046983
r21 5 22 0.0046983
r22 5 6 0.705
r23 4 62 0.68
r24 4 50 0.108444
r25 4 48 0.68
r26 4 40 15.61
r27 4 17 3.8825
r28 3 50 0.916356
r29 1 4 2.1105
.ends

.subckt PM_MUX21_Y 1 3 33
r0 49 51 0.0687543
r1 28 31 0.0517569
r2 22 24 0.125
r3 18 20 0.1275
r4 17 24 0.0046983
r5 17 31 3.81
r6 11 26 0.0517569
r7 11 13 0.209231
r8 9 20 0.0046983
r9 9 26 1.4825
r10 7 22 0.0046983
r11 7 51 0.12
r12 6 18 0.0046983
r13 5 49 0.0707543
r14 5 6 0.825
r15 4 49 0.68
r16 4 33 0.68
r17 4 28 15.61
r18 4 13 3.8825
r19 3 4 1.03564
r20 1 4 2.13283
.ends

.subckt PM_MUX21_B 1 3 43
r0 27 28 2.312
r1 25 26 0.642
r2 23 28 0.0446983
r3 23 24 0.14
r4 21 24 0.0446983
r5 21 22 0.258
r6 17 20 0.0517569
r7 14 36 0.0559551
r8 14 15 0.18
r9 13 15 0.0446983
r10 13 20 2.255
r11 7 31 0.0393755
r12 7 9 0.141538
r13 6 25 0.0477743
r14 6 36 0.68
r15 6 17 15.61
r16 5 27 0.0477743
r17 5 26 0.0477743
r18 5 43 0.68
r19 4 22 0.0477743
r20 4 31 0.68
r21 4 9 3.8825
r22 3 4 0.9272
r23 1 6 1.9095
.ends

.subckt PM_MUX21_GROUND 1 2 8
r0 16 18 0.0517569
r1 13 18 0.28
r2 8 11 0.0096
r3 6 13 0.102649
r4 6 11 0.0258667
r5 2 16 15.61
r6 2 11 0.323542
r7 1 2 2.12167
.ends

.subckt PM_MUX21_6 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_MUX21_S 4 10 18 22 36
r0 34 47 0.68
r1 34 44 8.27089
r2 34 47 11.07
r3 34 36 0.68
r4 30 31 146.154
r5 29 33 4.23445
r6 28 30 5.58729
r7 28 29 33.0769
r8 26 31 5.58729
r9 26 27 36.5385
r10 25 33 1.10046
r11 24 34 8.27089
r12 24 25 230.385
r13 20 32 4.23445
r14 20 22 64.2308
r15 16 27 5.58729
r16 16 18 90
r17 14 32 4.23445
r18 14 44 490.385
r19 12 32 1.10046
r20 12 13 103.077
r21 8 13 5.58729
r22 8 10 64.2308
r23 6 33 4.23445
r24 6 7 146.538
r25 2 7 5.58729
r26 2 4 246.154
.ends

